US06150352
Step 6.5B 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-6-pyrazin-2-ylethynyl-1,2-dihydroquinolin4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-ethynyl-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (123 mg in 1.5 mL N,N-dimethylformamide) was added tetrakis(triphenylphosphine)palladium (13 mg) followed by copper(I) iodide (22 mg), n-propylamine (0.19 mL) and chloropyrazine (0.026 mL) and the mixture heated to 90° C. on an oil bath. After 10 minutes, the mixture was cooled to room temperature, diluted with diethyl ether and washed successively with water and brine then dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (ethyl acetate:hexane, 30:70; then 40:60; then 50:50) gave the title compound (69 mg).

reactant | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-ethynyl-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 1.5 mL, 123 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)C#C)Cl)=O)C1=CC(=CC(=C1)C)C | C31H35ClN2O4
reactant | n-propylamine | 0.19 mL | C(CC)N | C3H9N
reactant | chloropyrazine | 0.026 mL | ClC1=NC=CN=C1 | C4H3ClN2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | tetrakis(triphenylphosphine)palladium | 13 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 22 mg | [Cu]I
product | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-6-pyrazin-2-ylethynyl-1,2-dihydroquinolin4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 69 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)C#CC1=NC=CN=C1)Cl)=O)C1=CC(=CC(=C1)C)C | C35H37ClN4O4
